US05112834
21. 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine
12 g (68 mmol) of 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine, 18 g (136 mmol) of 1,2-indenoxide and 9,6 ml (68 mmol) of triethylamine are stirred in 95 ml methanol/water (4:1) for 14 hours at 40° C. The mixture is evaporated at 50° C. in the rotary evaporator, mixed with 200 ml icewater, rendered alkaline with sodium hydroxide solution (approximately pH 13), and the precipitate is filtered off. The filtrate is shaken out with dichloromethane and the organic phase made up to 250 ml with dichloromethane, combined with the precipitate, dried with magnesium sulfate and purified with active charcoal. 250 ml of toluene is added, dichloromethane is distilled off, the mixture is purified at the boiling point with bleaching earth (e.g. Tonsil®), evaporated to half its volume and allowed to crystallize in the refrigerator. The yield of the titel compound m.p. 200°-202° C. is 17.6 g (84%).

reactant | 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 68 mmol, 12 g | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
reactant | triethylamine | 68 mmol, 9,6 ml | C(C)N(CC)CC | C6H15N
solvent | methanol water | 95 ml | CO.O
product | 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine | C(=O)C1=C(N=C2N1C=CC=C2O[C@H]2[C@@H](CC1=CC=CC=C21)O)C | C18H16N2O3
